US05482936
Under a nitrogen atmosphere, a solution of N,N-bis(phenylmethyl)-1-ethoxymethyl-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (1.12 g, 2.56 mmole) in tetrahydrofuran (20 mL) was cooled to -78° C. Butyllithium (1.03 mL of 2.5M in hexanes, 2.56 mmole) was added and the reaction mixture was stirred for 5 minutes. 1-Bromo-3-chloropropane (2.7 mL, 25 mmole) was added and the reaction mixture was allowed to warm to ambient temperature. When the reaction was complete, as indicated by thin layer chromatography (silica gel, 30% ethyl acetate in hexanes v/v), the reaction mixture was diluted with diethyl ether and water. The ether layer was separated, dried over magnesium sulfate and then concentrated under vacuum. The resulting residue was purified by column chromatography (silica gel eluting with 10-20% ethyl acetate in hexanes v/v) to provide 0.76 g of N,N-bis(phenylmethyl)-2-(4-chlorobutyl)-1-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | N,N-bis(phenylmethyl)-1-ethoxymethyl-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 2.56 mmole, 1.12 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=C(N2COCC)C)CC2=CC=CC=C2 | C28H28N4O
reactant | Butyllithium | 2.56 mmole, 2.5M, 1.03 mL | C(CCC)[Li]
reactant | 1-Bromo-3-chloropropane | 25 mmole, 2.7 mL | BrCCCCl | C3H6BrCl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | N,N-bis(phenylmethyl)-2-(4-chlorobutyl)-1-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.76 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=C(N2COCC)CCCCCl)CC2=CC=CC=C2 | C31H33ClN4O
